US04925879
A 1M solution of diisobutylaluminium hydride in hexane (100 ml) was added dropwise to a stirred solution of 1-(4-chlorophenyl)cyclobutanecarbonitrile (19.1 g) in dry ether (50 ml) at -30° C. under nitrogen. The mixture was allowed to warm to 0° C. and was kept at that temperature for 30 minutes. The mixture was cooled to -30° C. and 5N hydrochloric acid (100 ml) was added dropwise with stirring. The mixture was filtered to separate a solid and the filtrate was extracted with ether. The solid was added to the ether extracts which were washed with water and dried. Removal of the solvent gave 1-(4-chlorophenyl)cyclobutanecarbaldehyde as a yellow oil.

reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 1-(4-chlorophenyl)cyclobutanecarbonitrile | 19.1 g | ClC1=CC=C(C=C1)C1(CCC1)C#N | C11H10ClN
reactant | hydrochloric acid | 5N, 100 ml | Cl | ClH
reactant | ether | 50 ml | CCOCC | C4H10O
solvent | hexane | 100 ml | CCCCCC | C6H14
product | 1-(4-chlorophenyl)cyclobutanecarbaldehyde | ClC1=CC=C(C=C1)C1(CCC1)C=O | C11H11ClO
